US05344926
100 mg (0.21 mmol) of staurosporine (commercially available from Kyowa Medex Co., Ltd., Japan) was dissolved in a mixture of 4 ml of DMSO and 1 ml of 2N sodium hydroxide. The solution was stirred overnight at room temperature. The reaction solution was diluted with ethyl acetate, washed with water and brine in order, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography using the elution with 0%, 4%, 6%, and 10% acetone-containing chloroform in order to obtain 60 mg (yield: 59%) of UCN-01.

reactant | staurosporine | 0.21 mmol, 100 mg | C[C@@]12[C@@H]([C@@H](C[C@@H](O1)N3C=4C=CC=CC4C5=C3C=6N2C=7C=CC=CC7C6C8=C5C(=O)NC8)NC)OC | C28H26N4O3
reactant | Medex | C[C@@H](CC1=CC=CC=C1)N.C[C@@H](CC1=CC=CC=C1)N.OS(=O)(=O)O
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | UCN-01 | 60 mg, yield: 59% | C[C@@]12[C@@H]([C@@H](C[C@@H](O1)N3C=4C=CC=CC4C5=C3C=6N2C=7C=CC=CC7C6C8=C5C(=O)N[C@H]8O)NC)OC | C28H26N4O4
